US09428499B2
Step a: Synthesis of (4-hydroxypiperidin-1-yl)(3-nitrophenyl)methanone
To a stirred solution of 3-nitrobenzoyl chloride (10.0 g, 53.9 mmol) in DCM (10 ml) was added piperidin-4-one hydrochloride (10.96 g, 81.0 mmol) and triethylamine (22.53 ml, 162.0 mmol). The reaction mixture was stirred at room temperature for 30 min and evaporated to dryness. The crude material was treated with diethyl ether, solid obtained was filtered and dried under vacuum to give the title compound (9.0 gm).

reactant | 3-nitrobenzoyl chloride | 53.9 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | piperidin-4-one hydrochloride | 81.0 mmol, 10.96 g | Cl.N1CCC(CC1)=O
reactant | triethylamine | 162.0 mmol, 22.53 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-hydroxypiperidin-1-yl)(3-nitrophenyl)methanone | 9.0 gm | OC1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H14N2O4
